US07220856B2
Preparation of (3S)-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-acetic Acid
To a stirred solution of (3S)-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-acetic acid, methyl ester (300 mg, 0.613 mmol) in THF (3.0 mL) was added 2N NaOH solution (3 mL) at rt. After 30 min, THF was evaporated in vacuo, and the resulting residue was acidified to pH 4–5. The reaction mixture was extracted with ethyl acetate, washed with brine, and dried over Na2SO4. The product (15 mg) was obtained after concentration in vacuo. LC-MS: 475 (M++1). 1H NMR (CD3OD) δ 7.82 (d, 1H), 7.50 (s, 1H), 7.38 (d, 1H), 6.25 (s, 1H), 4.58 (d, 1H), 4.10 (m, 2H), 3.80 (m, 1H), 3.65 (m, 4H), 3.30 (m, 5H), 1.60–1.96 (m, 6H).

reactant | (3S)-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-acetic acid, methyl ester | 0.613 mmol, 300 mg | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1C(N(CCCC1)CC(=O)OC)=O)Cl | C23H29ClN6O4
reactant | NaOH | 2N, 3 mL | [OH-].[Na+]
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | (3S)-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-acetic Acid | 15 mg | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1C(N(CCCC1)CC(=O)O)=O)Cl | C22H27ClN6O4
